US05037938
PREPARATION OF 1,4-BIS(4-ACETOXYBENZOYLOXY)BENZENE
Using the procedure described above, this compound was prepared from hydroquinone and 4-acetoxybenzoic acid. The crude product was recrystallized from methyl isobutyl ketone (18 ml/g) giving white platelets with a m.p. of 185.0° C. to 186.5° C.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 4-acetoxybenzoic acid | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
product | 1,4-BIS(4-ACETOXYBENZOYLOXY)BENZENE | C(C)(=O)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OC(C2=CC=C(C=C2)OC(C)=O)=O)C=C1 | C24H18O8
